US03978121
B. 10-bromo-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene
10-Bromo-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene (14.75 g., 0.0396 mole) is dissolved in 100 ml. of trifluoroacetic acid. Trifluoroacetic anhydride, 50 ml., is added and the solution heated to refluxing with stirring for 11/2 hours. The excess trifluoroacetic anhydride and the trifluoroacetic acid are distilled, the residue suspended in water and the mixture rendered alkaline with sodium hydroxide solution. The base is extracted into ether. After washing the extract with water, the ether is distilled, leaving the oily product as the residue in a yield of 13.75 g. (98%).

reactant | 10-Bromo-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | 0.0396 mole, 14.75 g | BrC1=CC2=C(C(C3=C1C=CC=C3)(O)CCCN(C)C)C=CC=C2 | C20H22BrNO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 10-bromo-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene | BrC1=CC2=C(C(C3=C1C=CC=C3)=CCCN(C)C)C=CC=C2 | C20H20BrN
